US07026309B2
In a similar manner to Example 6, 4-[3,5-bis(trifluoromethyl)benzyl]-8-chloro-6-(2-methylphenyl)-5-oxo-2,3,4,5-tetrahydropyrido[3,2-f][1,4]oxazepine (compound of Reference Erxample 17; 51.5 mg) was reacted with 1-(t-butoxycarbonyl)homopiperazine (50.1 mg) and acetyl chloride (0.1 mL) to obtain 8-(4-acetylhomopiperazine-1-yl)-4-[3,5-bis(trifluoromethyl)benzyl]-6-(2-methylphenyl)-5-oxo-2,3,4,5-tetrahydropyrido[3,2-f][1,4]oxazepine (6.7 mg, 11%).

reactant | 4-[3,5-bis(trifluoromethyl)benzyl]-8-chloro-6-(2-methylphenyl)-5-oxo-2,3,4,5-tetrahydropyrido[3,2-f][1,4]oxazepine | 51.5 mg | FC(C=1C=C(CN2CCOC3=C(C2=O)C(=CC(=N3)Cl)C3=C(C=CC=C3)C)C=C(C1)C(F)(F)F)(F)F | C24H17ClF6N2O2
reactant | 1-(t-butoxycarbonyl)homopiperazine | 50.1 mg | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
reactant | acetyl chloride | 0.1 mL | C(C)(=O)Cl | C2H3ClO
product | 8-(4-acetylhomopiperazine-1-yl)-4-[3,5-bis(trifluoromethyl)benzyl]-6-(2-methylphenyl)-5-oxo-2,3,4,5-tetrahydropyrido[3,2-f][1,4]oxazepine | 6.7 mg, 11% | C(C)(=O)N1CCN(CCC1)C=1C=C(C=2C(N(CCOC2N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=C(C=CC=C1)C | C31H30F6N4O3
